US06620438B2
16.5 g of 3-aminopropanol and 41.7 g of 1-benzyl-4-piperidone are dissolved in 350 ml methylene chloride and at about 10° C. 56 g of sodium triacetoxy-borohydride are slowly added. The mixture is stirred overnight at ambient temperature, then acidified with dilute hydrochloric acid with cooling and subsequently made alkaline with conc. sodium hydroxide solution. The organic phase is separated off, the aqueous phase is washed once again with 150 ml of methylene chloride. The combined organic phases are dried over sodium sulphate and freed from solvent in vacuo. 32 g 1-benzyl-4-(3-hydroxy-propylamino)-piperidine are obtained as a yellow oil which is used in the next reaction step without any further purification.

reactant | 3-aminopropanol | 16.5 g | NCCCO | C3H9NO
reactant | 1-benzyl-4-piperidone | 41.7 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium triacetoxy-borohydride | 56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-(3-hydroxy-propylamino)-piperidine | 32 g | C(C1=CC=CC=C1)N1CCC(CC1)NCCCO | C15H24N2O
